US08222281B2
(44A) 4-Ethylindan-1-one
4-Bromoindan-1-one (600 mg, 2.84 mmol) was dissolved in toluene (10 mL), and ethyl boronate (105 mg, 8.52 mmol), silver oxide (I) (274 mg, 7.10 mmol), potassium carbonate (196 mg, 8.52 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloride dichloromethane complex (46 mg, 0.0568 mmol) were added thereto, and then, the resulting mixture was stirred under a nitrogen atmosphere at 100° C. for 4 hours. After cooling to room temperature, the reaction solution was filtered, and the solvent was distilled off under reduced pressure, whereby a crude product was obtained. This crude product was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 80:20 (v/v)), whereby the objective title compound was obtained as a colorless oily substance (421 mg, yield: 92%).

reactant | 4-Bromoindan-1-one | 2.84 mmol, 600 mg | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | ethyl boronate | 8.52 mmol, 105 mg | B(OCC)[O-]
reactant | potassium carbonate | 8.52 mmol, 196 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | silver oxide | 7.10 mmol, 274 mg | [Ag]=O
product | 4-Ethylindan-1-one | yield: 92% | C(C)C1=C2CCC(C2=CC=C1)=O | C11H12O
